US05478849
To a suspension formed by suspending 0.16 g of sodium hydride (60%) in N,N-dimethylformamide was added 0.6 g of 4-t-butylphenol and after stirring the mixture for one hour at 60° C., 0.81 g of 3-(4-t-butylphenoxy)-4-chloro-1,2,5-thiadiazole was added to the mixture followed by stirring for 12 hours at 100° C. After allowing to cool, the reaction mixture was poured in water and extracted with ether. The ether layer collected was washed twice each time with a diluted aqueous sodium hydroxide solution, water, and then a saturated aqueous sodium chloride solution. The ether layer thus washed was dried with anhydrous magnesium sulfate, concentrated, and purified by silica column chromatography to provide 0.84 g of 3,4-bis(4-t-butylphenoxy)-1,2,5-thiadiazole.

reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 4-t-butylphenol | 0.6 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | 3-(4-t-butylphenoxy)-4-chloro-1,2,5-thiadiazole | 0.81 g | C(C)(C)(C)C1=CC=C(OC2=NSN=C2Cl)C=C1 | C12H13ClN2OS
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,4-bis(4-t-butylphenoxy)-1,2,5-thiadiazole | 0.84 g | C(C)(C)(C)C1=CC=C(OC2=NSN=C2OC2=CC=C(C=C2)C(C)(C)C)C=C1 | C22H26N2O2S
